US08334295B2
5-Isopropyl-6-quinolin-3-yl-1H-pyrimidine-2,4-dione (Compound 96):
In a 10 mL round bottom flask, 1 mL AcBr was added to 3-(5-Isopropyl-2,6-dimethoxy-pyrimidin-4-yl)-quinoline (14 mg, 0.045 mmol). The reaction mixture was heated at 70° C. for 2 hours. The reaction mixture was concentrated down and purified by reverse phase prep HPLC (MeCN/water) to give a white powder (6 mg, 47%). LC-MS shows 280.3 (M−1).

reactant | AcBr | 1 mL | C(=O)(C)Br | C2H3BrO
reactant | 3-(5-Isopropyl-2,6-dimethoxy-pyrimidin-4-yl)-quinoline | 0.045 mmol, 14 mg | C(C)(C)C=1C(=NC(=NC1OC)OC)C=1C=NC2=CC=CC=C2C1 | C18H19N3O2
product | 5-Isopropyl-6-quinolin-3-yl-1H-pyrimidine-2,4-dione | 6 mg, 47% | C(C)(C)C=1C(NC(NC1C=1C=NC2=CC=CC=C2C1)=O)=O | C16H15N3O2
